US06271225B1
To a solution of N-(2-hydroxyphenyl)-2-bromo-4,5-dimethyl-3-thiophenecarboxamide (3.3 g) in dimethyl sulfide (50 ml) was added potassium carbonate (2.8 g) and the mixture was stirred at 160-170° C. for 20 minutes. The reaction system was cooled to room temperature and the reaction mixture was poured into water-ethyl acetate. The insoluble matter was filtrated and the filtrate was extracted with ethyl acetate, washed with water and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give 2,3-dimethylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one (1.4 g).

reactant | N-(2-hydroxyphenyl)-2-bromo-4,5-dimethyl-3-thiophenecarboxamide | 3.3 g | OC1=C(C=CC=C1)NC(=O)C1=C(SC(=C1C)C)Br | C13H12BrNO2S
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | water ethyl acetate | O.C(C)(=O)OCC
solvent | dimethyl sulfide | 50 ml | CSC | C2H6S
product | 2,3-dimethylthieno[2,3-b][1,5]benzoxazepin-4(5H)-one | 1.4 g | CC1=C(C2=C(OC3=C(NC2=O)C=CC=C3)S1)C | C13H11NO2S
